US06562811B1
To a stirred solution of tert-butyl 4-[2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(1H-imidazol-1-ylmethyl)-4-pyridinyl]-1-piperidinecarboxylate (0.260 g, 0.500 mmol) in 1,4-dioxane (10 mL) was added 4N HCl in dioxane (10 mL). The mixture was stirred at room temperature for 2 hrs. The resulting precipitate was collected by filtration, washed with acetonitrile, and dried under reduced pressure to give 2-[6-amino-5-(1H-imidazol-1-ylmethyl)-4-(4-piperidinyl)-2-pyridinyl]-3-(cyclopropylmethoxy)phenol hydrochloride. (0.248 g, yield; quant

reactant | tert-butyl 4-[2-amino-6-[2-(cyclopropylmethoxy)-6-hydroxyphenyl]-3-(1H-imidazol-1-ylmethyl)-4-pyridinyl]-1-piperidinecarboxylate | 0.500 mmol, 0.260 g | NC1=NC(=CC(=C1CN1C=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1O)OCC1CC1 | C29H37N5O4
reactant | HCl | 4N | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-[6-amino-5-(1H-imidazol-1-ylmethyl)-4-(4-piperidinyl)-2-pyridinyl]-3-(cyclopropylmethoxy)phenol hydrochloride | Cl.NC1=C(C(=CC(=N1)C1=C(C=CC=C1OCC1CC1)O)C1CCNCC1)CN1C=NC=C1 | InChI=1S/C24H29N5O2.ClH/c25-24-19(13-29-11-10-27-15-29)18(17-6-8-26-9-7-17)12-20(28-24)23-21(30)2-1-3-22(23)31-14-16-4-5-16;/h1-3,10-12,15-17,26,30H,4-9,13-14H2,(H2,25,28);1H
